US07265149B2
b] 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-1H-pyrazole
To a solution of [5-(4-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-methanol (40 mg, 0.17 mmol) in chloroform (4 ml) was added thionyl chloride (0.34 ml, 4.7 mmol) at 0° C. under an argon atmosphere. The solution was stirred at 40° C. for 2 h and at 60° C. for 10 min. The mixture was poured onto ice water/aqueous NaHCO3 1/1, extracted two times with dichloromethane and the combinded extracts were dried over sodium sulfate. Evaporation of the solvent under reduced pressure gave 43 mg (0.165 mmol, 97%) of the title compound as white crystals.

reactant | [5-(4-trifluoromethyl-phenyl)-1H-pyrazol-3-yl]-methanol | 0.17 mmol, 40 mg | FC(C1=CC=C(C=C1)C1=CC(=NN1)CO)(F)F | C11H9F3N2O
reactant | thionyl chloride | 4.7 mmol, 0.34 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-1H-pyrazole | 0.165 mmol, 43 mg, 97% | ClCC1=NNC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H8ClF3N2
